US07129232B2
To a suspension of 4,5-diamino-1-(2-hydroxyethyl)pyrazole sulfuric acid salt (1.20 g) and N-[2-(tert-butoxycarbonylamino)acetoxy]succinimide (1.35 g) in methylene chloride (20 ml) was added N-ethyldiisopropylamine (2.1 ml) under ice-cooling, and the mixture was stirred at room temperature for 17 hours. The reaction mixture was washed with water (40 ml), saturated aqueous sodium hydrogen carbonate solution (40 ml) and brine (40 ml). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The oily residue was purified by column chromatography on silica gel eluting with 10% methanol/chloroform to give 5-amino-4-[2-(tert-butoxycarbonylamino)acetyl]amino-1-(2-hydroxyethyl)pyrazole (1.20 g) as a solid.

reactant | 4,5-diamino-1-(2-hydroxyethyl)pyrazole sulfuric acid salt | 1.20 g | S(O)(O)(=O)=O.NC=1C=NN(C1N)CCO
reactant | N-[2-(tert-butoxycarbonylamino)acetoxy]succinimide | 1.35 g | C(C)(C)(C)OC(=O)NCC(=O)ON1C(CCC1=O)=O | C11H16N2O6
reactant | N-ethyldiisopropylamine | 2.1 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-amino-4-[2-(tert-butoxycarbonylamino)acetyl]amino-1-(2-hydroxyethyl)pyrazole | 1.20 g | NC1=C(C=NN1CCO)NC(CNC(=O)OC(C)(C)C)=O | C12H21N5O4
